**************************************************
* Manufacturer:           Wurth Elektronik 
* Kinds:                  Flexible Transformer for DC/DC Converter 
* Matchcode:              WE-FLEX
* Library Type:           LTspice
* Version:                rev22b
* Created/modified by:    Toby    
* Date and Time:          2022-05-23
* Team:                   eiSos EDA Service  
* Contact:                libraries@we-online.com
**************************************************
* Copyright(C) 2022 Würth Elektronik eiSos GmbH & Co. KG
* All Rights Reserved.
**************************************************
* Disclaimer: While Würth Elektronik eiSos has made every reasonable effort to ensure the accuracy
* of the simulation models provided, Würth Elektronik eiSos does not guarantee the exemption of error on
* the simulation models, nor does Würth Elektronik eiSos guarantee that the simulation model is current.
* Würth Elektronik eiSos reserves the right to make any adjustments at any time without notice.
* Würth Elektronik eiSos expressly disclaims all implied warranties regarding this simulation model.
**************************************************
************ WE-FLEX-ER11.5 ****************
.Subckt WE-FLEX_ER11-5_749196101 S1 F1 S2 F2 S3 F3 S4 F4 S5 F5 S6 F6
X1 S1 F1 S2 F2 S3 F3 S4 F4 S5 F5 S6 F6 ModelWinds params:
+ temp=temp
+ A=11.9u 
+ Lm=14.7m 
+ Hc= tbl(temp,25,14,100,9)
+ Bs= tbl(temp,25,510m,100,390m)
+ Br= tbl(temp,25,100m,100,55m)
+ Lg= {772/100000000}
+ Rbase = 0.344*(1+(0.00393*(temp - 25)))
+ Llkgbase = 0.21u
+ Trn = 12
.ends WE-FLEX_ER11-5_749196101

.Subckt WE-FLEX_ER11-5_749196111 S1 F1 S2 F2 S3 F3 S4 F4 S5 F5 S6 F6 params: temp=25 
X1 S1 F1 S2 F2 S3 F3 S4 F4 S5 F5 S6 F6 ModelWinds params:
+ temp=temp
+ A=11.9u 
+ Lm=14.7m 
+ Hc= tbl(temp,25,14,100,9)
+ Bs= tbl(temp,25,510m,100,390m)
+ Br= tbl(temp,25,100m,100,55m)
+ Lg= {7598/100000000}
+ Rbase = 0.344*(1+(0.00393*(temp - 25)))
+ Llkgbase = 0.21u
+ Trn = 12
.ends WE-FLEX_ER11-5_749196111

.Subckt WE-FLEX_ER11-5_749196121 S1 F1 S2 F2 S3 F3 S4 F4 S5 F5 S6 F6 params: temp=25 
X1 S1 F1 S2 F2 S3 F3 S4 F4 S5 F5 S6 F6 ModelWinds params:
+ temp=temp
+ A=11.9u 
+ Lm=14.7m 
+ Hc= tbl(temp,25,14,100,9)
+ Bs= tbl(temp,25,510m,100,390m)
+ Br= tbl(temp,25,100m,100,55m)
+ Lg= {14335/100000000}
+ Rbase = 0.344*(1+(0.00393*(temp - 25)))
+ Llkgbase = 0.21u
+ Trn = 12
.ends WE-FLEX_ER11-5_749196121

.Subckt WE-FLEX_ER11-5_749196131 S1 F1 S2 F2 S3 F3 S4 F4 S5 F5 S6 F6 params: temp=25 
X1 S1 F1 S2 F2 S3 F3 S4 F4 S5 F5 S6 F6 ModelWinds params:
+ temp=temp
+ A=11.9u 
+ Lm=14.7m 
+ Hc= tbl(temp,25,14,100,9)
+ Bs= tbl(temp,25,510m,100,390m)
+ Br= tbl(temp,25,100m,100,55m)
+ Lg= {19820/100000000}
+ Rbase = 0.344*(1+(0.00393*(temp - 25)))
+ Llkgbase = 0.21u
+ Trn = 12
.ends WE-FLEX_ER11-5_749196131

.Subckt WE-FLEX_ER11-5_749196141 S1 F1 S2 F2 S3 F3 S4 F4 S5 F5 S6 F6 params: temp=25 
X1 S1 F1 S2 F2 S3 F3 S4 F4 S5 F5 S6 F6 ModelWinds params:
+ temp=temp
+ A=11.9u 
+ Lm=14.7m 
+ Hc= tbl(temp,25,14,100,9)
+ Bs= tbl(temp,25,510m,100,390m)
+ Br= tbl(temp,25,100m,100,55m)
+ Lg= {25650/100000000}
+ Rbase = 0.344*(1+(0.00393*(temp - 25)))
+ Llkgbase = 0.21u
+ Trn = 12
.ends WE-FLEX_ER11-5_749196141

************ WE-FLEX-ER14.5 ****************
.Subckt WE-FLEX_ER14-5_749196201 S1 F1 S2 F2 S3 F3 S4 F4 S5 F5 S6 F6 params: temp=25 
X1 S1 F1 S2 F2 S3 F3 S4 F4 S5 F5 S6 F6 ModelWinds params:
+ temp=temp
+ A=17.6u 
+ Lm=19m 
+ Hc= tbl(temp,25,14,100,9)
+ Bs= tbl(temp,25,510m,100,390m)
+ Br= tbl(temp,25,100m,100,55m)
+ Lg= {1173/100000000}
+ Rbase = 0.159*(1+(0.00393*(temp - 25)))
+ Llkgbase = 0.17u
+ Trn = 10
.ends WE-FLEX_ER14-5_749196201

.Subckt WE-FLEX_ER14-5_749196211 S1 F1 S2 F2 S3 F3 S4 F4 S5 F5 S6 F6 params: temp=25 
X1 S1 F1 S2 F2 S3 F3 S4 F4 S5 F5 S6 F6 ModelWinds params:
+ temp=temp
+ A=17.6u 
+ Lm=19m 
+ Hc= tbl(temp,25,14,100,9)
+ Bs= tbl(temp,25,510m,100,390m)
+ Br= tbl(temp,25,100m,100,55m)
+ Lg= {9838/100000000}
+ Rbase = 0.159*(1+(0.00393*(temp - 25)))
+ Llkgbase = 0.17u
+ Trn = 10
.ends WE-FLEX_ER14-5_749196211

.Subckt WE-FLEX_ER14-5_749196221 S1 F1 S2 F2 S3 F3 S4 F4 S5 F5 S6 F6 params: temp=25 
X1 S1 F1 S2 F2 S3 F3 S4 F4 S5 F5 S6 F6 ModelWinds params:
+ temp=temp
+ A=17.6u 
+ Lm=19m 
+ Hc= tbl(temp,25,14,100,9)
+ Bs= tbl(temp,25,510m,100,390m)
+ Br= tbl(temp,25,100m,100,55m)
+ Lg= {18662/100000000}
+ Rbase = 0.159*(1+(0.00393*(temp - 25)))
+ Llkgbase = 0.17u
+ Trn = 10
.ends WE-FLEX_ER14-5_749196221

.Subckt WE-FLEX_ER14-5_749196231 S1 F1 S2 F2 S3 F3 S4 F4 S5 F5 S6 F6 params: temp=25 
X1 S1 F1 S2 F2 S3 F3 S4 F4 S5 F5 S6 F6 ModelWinds params:
+ temp=temp
+ A=17.6u 
+ Lm=19m 
+ Hc= tbl(temp,25,14,100,9)
+ Bs= tbl(temp,25,510m,100,390m)
+ Br= tbl(temp,25,100m,100,55m)
+ Lg= {26785/100000000}
+ Rbase = 0.159*(1+(0.00393*(temp - 25)))
+ Llkgbase = 0.17u
+ Trn = 10
.ends WE-FLEX_ER14-5_749196231

.Subckt WE-FLEX_ER14-5_749196241 S1 F1 S2 F2 S3 F3 S4 F4 S5 F5 S6 F6 params: temp=25 
X1 S1 F1 S2 F2 S3 F3 S4 F4 S5 F5 S6 F6 ModelWinds params:
+ temp=temp
+ A=17.6u 
+ Lm=19m 
+ Hc= tbl(temp,25,14,100,9)
+ Bs= tbl(temp,25,510m,100,390m)
+ Br= tbl(temp,25,100m,100,55m)
+ Lg= {33950/100000000}
+ Rbase = 0.159*(1+(0.00393*(temp - 25)))
+ Llkgbase = 0.17u
+ Trn = 10
.ends WE-FLEX_ER14-5_749196241

************ WE-FLEX-EFD15 ****************
.Subckt WE-FLEX_EFD15_749196301 S1 F1 S2 F2 S3 F3 S4 F4 S5 F5 S6 F6 params: temp=25 
X1 S1 F1 S2 F2 S3 F3 S4 F4 S5 F5 S6 F6 ModelWinds params:
+ temp=temp
+ A=12.2u 
+ Lm=34m 
+ Hc= tbl(temp,25,14,100,9)
+ Bs= tbl(temp,25,510m,100,390m)
+ Br= tbl(temp,25,100m,100,55m)
+ Lg= {952/100000000}
+ Rbase = 0.140*(1+(0.00393*(temp - 25)))
+ Llkgbase = 0.13u
+ Trn = 13
.ends WE-FLEX_EFD15_749196301

.Subckt WE-FLEX_EFD15_749196311 S1 F1 S2 F2 S3 F3 S4 F4 S5 F5 S6 F6 params: temp=25 
X1 S1 F1 S2 F2 S3 F3 S4 F4 S5 F5 S6 F6 ModelWinds params:
+ temp=temp
+ A=12.2u 
+ Lm=34m 
+ Hc= tbl(temp,25,14,100,9)
+ Bs= tbl(temp,25,510m,100,390m)
+ Br= tbl(temp,25,100m,100,55m)
+ Lg= {10375/100000000}
+ Rbase = 0.140*(1+(0.00393*(temp - 25)))
+ Llkgbase = 0.13u
+ Trn = 13
.ends WE-FLEX_EFD15_749196311

.Subckt WE-FLEX_EFD15_749196321 S1 F1 S2 F2 S3 F3 S4 F4 S5 F5 S6 F6 params: temp=25 
X1 S1 F1 S2 F2 S3 F3 S4 F4 S5 F5 S6 F6 ModelWinds params:
+ temp=temp
+ A=12.2u 
+ Lm=34m 
+ Hc= tbl(temp,25,14,100,9)
+ Bs= tbl(temp,25,510m,100,390m)
+ Br= tbl(temp,25,100m,100,55m)
+ Lg= {17497/100000000}
+ Rbase = 0.140*(1+(0.00393*(temp - 25)))
+ Llkgbase = 0.13u
+ Trn = 13
.ends WE-FLEX_EFD15_749196321

.Subckt WE-FLEX_EFD15_749196331 S1 F1 S2 F2 S3 F3 S4 F4 S5 F5 S6 F6 params: temp=25 
X1 S1 F1 S2 F2 S3 F3 S4 F4 S5 F5 S6 F6 ModelWinds params:
+ temp=temp
+ A=12.2u 
+ Lm=34m 
+ Hc= tbl(temp,25,14,100,9)
+ Bs= tbl(temp,25,510m,100,390m)
+ Br= tbl(temp,25,100m,100,55m)
+ Lg= {27119/100000000}
+ Rbase = 0.140*(1+(0.00393*(temp - 25)))
+ Llkgbase = 0.13u
+ Trn = 13
.ends WE-FLEX_EFD15_749196331

.Subckt WE-FLEX_EFD15_749196341 S1 F1 S2 F2 S3 F3 S4 F4 S5 F5 S6 F6 params: temp=25 
X1 S1 F1 S2 F2 S3 F3 S4 F4 S5 F5 S6 F6 ModelWinds params:
+ temp=temp
+ A=12.2u 
+ Lm=34m 
+ Hc= tbl(temp,25,14,100,9)
+ Bs= tbl(temp,25,510m,100,390m)
+ Br= tbl(temp,25,100m,100,55m)
+ Lg= {32059/100000000}
+ Rbase = 0.140*(1+(0.00393*(temp - 25)))
+ Llkgbase = 0.13u
+ Trn = 13
.ends WE-FLEX_EFD15_749196341

************ WE-FLEX-EFD20 ****************
.Subckt WE-FLEX_EFD20_749196500 S1 F1 S2 F2 S3 F3 S4 F4 S5 F5 S6 F6 params: temp=25 
X1 S1 F1 S2 F2 S3 F3 S4 F4 S5 F5 S6 F6 ModelWinds params:
+ temp=temp
+ A=31u 
+ Lm=47m 
+ Hc= tbl(temp,25,14,100,9)
+ Bs= tbl(temp,25,510m,100,390m)
+ Br= tbl(temp,25,100m,100,55m)
+ Lg= {1837/100000000}
+ Rbase = 0.03*(1+(0.00393*(temp - 25)))
+ Llkgbase = 0.18u
+ Trn = 8
.ends WE-FLEX_EFD20_749196500

.Subckt WE-FLEX_EFD20_749196501 S1 F1 S2 F2 S3 F3 S4 F4 S5 F5 S6 F6 params: temp=25 
X1 S1 F1 S2 F2 S3 F3 S4 F4 S5 F5 S6 F6 ModelWinds params:
+ temp=temp
+ A=31u 
+ Lm=47m 
+ Hc= tbl(temp,25,14,100,9)
+ Bs= tbl(temp,25,510m,100,390m)
+ Br= tbl(temp,25,100m,100,55m)
+ Lg= {1836/100000000}
+ Rbase = 0.0711*(1+(0.00393*(temp - 25)))
+ Llkgbase = 0.24u
+ Trn = 12
.ends WE-FLEX_EFD20_749196501

.Subckt WE-FLEX_EFD20_749196510 S1 F1 S2 F2 S3 F3 S4 F4 S5 F5 S6 F6 params: temp=25 
X1 S1 F1 S2 F2 S3 F3 S4 F4 S5 F5 S6 F6 ModelWinds params:
+ temp=temp
+ A=31u 
+ Lm=47m 
+ Hc= tbl(temp,25,14,100,9)
+ Bs= tbl(temp,25,510m,100,390m)
+ Br= tbl(temp,25,100m,100,55m)
+ Lg= {24620/100000000}
+ Rbase = 0.03*(1+(0.00393*(temp - 25)))
+ Llkgbase = 0.18u
+ Trn = 8
.ends WE-FLEX_EFD20_749196510

.Subckt WE-FLEX_EFD20_749196511 S1 F1 S2 F2 S3 F3 S4 F4 S5 F5 S6 F6 params: temp=25 
X1 S1 F1 S2 F2 S3 F3 S4 F4 S5 F5 S6 F6 ModelWinds params:
+ temp=temp
+ A=31u 
+ Lm=47m 
+ Hc= tbl(temp,25,14,100,9)
+ Bs= tbl(temp,25,510m,100,390m)
+ Br= tbl(temp,25,100m,100,55m)
+ Lg= {24129/100000000}
+ Rbase = 0.0711*(1+(0.00393*(temp - 25)))
+ Llkgbase = 0.24u
+ Trn = 12
.ends WE-FLEX_EFD20_749196511

.Subckt WE-FLEX_EFD20_749196520 S1 F1 S2 F2 S3 F3 S4 F4 S5 F5 S6 F6 params: temp=25 
X1 S1 F1 S2 F2 S3 F3 S4 F4 S5 F5 S6 F6 ModelWinds params:
+ temp=temp
+ A=31u 
+ Lm=47m 
+ Hc= tbl(temp,25,14,100,9)
+ Bs= tbl(temp,25,510m,100,390m)
+ Br= tbl(temp,25,100m,100,55m)
+ Lg= {47668/100000000}
+ Rbase = 0.03*(1+(0.00393*(temp - 25)))
+ Llkgbase = 0.18u
+ Trn = 8
.ends WE-FLEX_EFD20_749196520

.Subckt WE-FLEX_EFD20_749196521 S1 F1 S2 F2 S3 F3 S4 F4 S5 F5 S6 F6 params: temp=25 
X1 S1 F1 S2 F2 S3 F3 S4 F4 S5 F5 S6 F6 ModelWinds params:
+ temp=temp
+ A=31u 
+ Lm=47m 
+ Hc= tbl(temp,25,14,100,9)
+ Bs= tbl(temp,25,510m,100,390m)
+ Br= tbl(temp,25,100m,100,55m)
+ Lg= {46700/100000000}
+ Rbase = 0.0711*(1+(0.00393*(temp - 25)))
+ Llkgbase = 0.24u
+ Trn = 12
.ends WE-FLEX_EFD20_749196521

.Subckt WE-FLEX_EFD20_749196530 S1 F1 S2 F2 S3 F3 S4 F4 S5 F5 S6 F6 params: temp=25 
X1 S1 F1 S2 F2 S3 F3 S4 F4 S5 F5 S6 F6 ModelWinds params:
+ temp=temp
+ A=31u 
+ Lm=47m 
+ Hc= tbl(temp,25,14,100,9)
+ Bs= tbl(temp,25,510m,100,390m)
+ Br= tbl(temp,25,100m,100,55m)
+ Lg= {59400/100000000}
+ Rbase = 0.03*(1+(0.00393*(temp - 25)))
+ Llkgbase = 0.18u
+ Trn = 8
.ends WE-FLEX_EFD20_749196530

.Subckt WE-FLEX_EFD20_749196531 S1 F1 S2 F2 S3 F3 S4 F4 S5 F5 S6 F6 params: temp=25 
X1 S1 F1 S2 F2 S3 F3 S4 F4 S5 F5 S6 F6 ModelWinds params:
+ temp=temp
+ A=31u 
+ Lm=47m 
+ Hc= tbl(temp,25,14,100,9)
+ Bs= tbl(temp,25,510m,100,390m)
+ Br= tbl(temp,25,100m,100,55m)
+ Lg= {58250/100000000}
+ Rbase = 0.0711*(1+(0.00393*(temp - 25)))
+ Llkgbase = 0.24u
+ Trn = 12
.ends WE-FLEX_EFD20_749196531

.Subckt WE-FLEX_EFD20_749196540 S1 F1 S2 F2 S3 F3 S4 F4 S5 F5 S6 F6 params: temp=25 
X1 S1 F1 S2 F2 S3 F3 S4 F4 S5 F5 S6 F6 ModelWinds params:
+ temp=temp
+ A=31u 
+ Lm=47m 
+ Hc= tbl(temp,25,14,100,9)
+ Bs= tbl(temp,25,510m,100,390m)
+ Br= tbl(temp,25,100m,100,55m)
+ Lg= {76525/100000000}
+ Rbase = 0.03*(1+(0.00393*(temp - 25)))
+ Llkgbase = 0.18u
+ Trn = 8
.ends WE-FLEX_EFD20_749196540

.Subckt WE-FLEX_EFD20_749196541 S1 F1 S2 F2 S3 F3 S4 F4 S5 F5 S6 F6 params: temp=25 
X1 S1 F1 S2 F2 S3 F3 S4 F4 S5 F5 S6 F6 ModelWinds params:
+ temp=temp
+ A=31u 
+ Lm=47m 
+ Hc= tbl(temp,25,14,100,9)
+ Bs= tbl(temp,25,510m,100,390m)
+ Br= tbl(temp,25,100m,100,55m)
+ Lg= {75185/100000000}
+ Rbase = 0.0711*(1+(0.00393*(temp - 25)))
+ Llkgbase = 0.24u
+ Trn = 12
.ends WE-FLEX_EFD20_749196541

********************************************

.Subckt ModelWinds S1 F1 S2 F2 S3 F3 S4 F4 S5 F5 S6 F6 params:
+ temp=temp
+ A=1
+ Lm=1 
+ Hc=1
+ Bs=1
+ Br=0.5
+ Lg=1
+ Rbase=1
+ Llkgbase=1
+ Trn=1
**
Lp N01 N02a Hc={Hc} Bs={Bs} Br={Br} A={A} Lm={Lm} Lg={Lg} N={Trn}
Rp N02a N02 0.00001
Rgc N01 0 20meg
**
Lk1 N13 S1 {Llkgbase}
Rp1 S1 F1 1meg
Rs1 F1 N12 {Rbase}
Cp1 S1 F1 10p
G11 0 N11 N01 N02 1
G12 0 N11 N13 N12 1
R1 N11 0 1Meg
G13 N12 N13 N11 0 1
G14 N02 N01 N11 0 1
Rg1 S1 0 20meg
**
Lk2 N23 S2 {Llkgbase}
Rp2 S2 F2 1meg
Rs2 F2 N22 {Rbase}
Cp2 S2 F2 10p
G21 0 N21 N01 N02 1
G22 0 N21 N23 N22 1
R2 N21 0 1Meg
G23 N22 N23 N21 0 1
G24 N02 N01 N21 0 1
Rg2 S2 0 20meg
**
Lk3 N33 S3 {Llkgbase}
Rp3 S3 F3 1meg
Rs3 F3 N32 {Rbase}
Cp3 S3 F3 10p
G31 0 N31 N01 N02 1
G32 0 N31 N33 N32 1
R3 N31 0 1Meg
G33 N32 N33 N31 0 1
G34 N02 N01 N31 0 1
Rg3 S3 0 20meg
**
Lk4 N43 S4 {Llkgbase}
Rp4 S4 F4 1meg
Rs4 F4 N42 {Rbase}
Cp4 S4 F4 10p
G41 0 N41 N01 N02 1
G42 0 N41 N43 N42 1
R4 N41 0 1Meg
G43 N42 N43 N41 0 1
G44 N02 N01 N41 0 1
Rg4 S4 0 20meg
**
Lk5 N53 S5 {Llkgbase}
Rp5 S5 F5 1meg
Rs5 F5 N52 {Rbase}
Cp5 S5 F5 10p
G51 0 N51 N01 N02 1
G52 0 N51 N53 N52 1
R5 N51 0 1Meg
G53 N52 N53 N51 0 1
G54 N02 N01 N51 0 1
Rg5 S5 0 20meg
**
Lk6 N63 S6 {Llkgbase}
Rp6 S6 F6 1meg
Rs6 F6 N62 {Rbase}
Cp6 S6 F6 10p
G61 0 N61 N01 N02 1
G62 0 N61 N63 N62 1
R6 N61 0 1Meg
G63 N62 N63 N61 0 1
G64 N02 N01 N61 0 1
Rg6 S6 0 20meg
**
.ends ModelWinds
